US04088779
The starting material is prepared as follows: To the suspension of 7.15 g of methyl sodium glycolate in 50 ml of dimethylsulfoxide and 25 ml of diemthylformamide, cooled to 0°, are added at once 9.5 g of methyl 4,4-diethoxy-crotonate and the mixture is stirred at room temperature for 3 hours. It is poured into water, washed with diethyl ether and the aqueous layer is acidified with cold N hydrochloric acid. It is extracted twice with diethyl ether, the extract dried, evaporated and the residue distilled, to yield the methyl 2-diethoxymethyl-4-oxo-tetrahydrofuran-3-carboxylate boiling at 123°-126°/0.5 mm Hg.

reactant | methyl sodium glycolate | 7.15 g | C(CO)(=O)O.C[Na]
reactant | methyl 4,4-diethoxy-crotonate | 9.5 g | C(C)OC(/C=C/C(=O)OC)OCC | C9H16O4
reactant | water | O | H2O
solvent | dimethylsulfoxide | 50 ml | CS(=O)C | C2H6OS
product | methyl 2-diethoxymethyl-4-oxo-tetrahydrofuran-3-carboxylate | C(C)OC(C1OCC(C1C(=O)OC)=O)OCC | C11H18O6
